* C:\users\brosnan\Desktop\test\transistor1.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 12
R1 N003 0 10k
L1 N003 0 0.4 Rser=1m
C1 N001 N003 0.1
Q1 N002 N003 N004 0 NPN
L2 N001 N002 0.5 Rser=1m
R2 N004 0 20k
.model NPN NPN
.model PNP PNP
.lib C:\users\brosnan\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 0.5 0.1 0.01
.backanno
.end
