* Generated by electronics_design from a KiCad schematic
.model NPN NPN
R1 N001 0 10k
C1 N12 N001 0.1
L1 N001 0 0.4 Rser=1m
R2 N002 0 20k
V1 N12 0 12
L2 N12 N003 0.5 Rser=1m
Q1 N003 N001 N002 0 NPN
.tran 1
.backanno
.end
